US07994185B2
N-{2-chloro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide (115 mg, 0.214 mmol) and dimethyl zinc in toluene (0.214 mL, 0.427 mmol), the title compound was obtained as a solid (60 mg, 51% yield). MS (ESI): 519 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 0.214 mmol, 115 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=COC=C1 | C21H17Cl2N5O4S2
reactant | dimethyl zinc | C[Zn]C
reactant | toluene | 0.427 mmol, 0.214 mL | C1(=CC=CC=C1)C | C7H8
product | N-{2-chloro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)N1CCOCC1)NS(=O)(=O)C1=COC=C1 | C22H20ClN5O4S2
